US04845233
1-Ethyl-4-imidazolin-2-one (1 gm, 0.009 mol) and 1-chloroethyltetradecanoate (2.6 gm, 0.009 mol) were dissolved in 13 ml of dry chloroform and a suspension of sodium hydride in dry benzene (3 ml) was added portionwise. The reaction mixture was stirred at room temperature overnight and was followed by the workup presented in the preceeding examples. After purification by liquid chromatography using silica gel as the supporting material and chloroform as the eluant (EM Silica gel 500 G, 60-200 mesh was used), 1-ethyl-4-imidazolin-2-one-3-α-ethyltetradecanoate was obtained in a yield of 10% (350 mg). 1H n.m.r.(CC14): δ0.90(3H, t, J=5 Hz, CH3 [CH2 ]11CH2 --); 1.28(22H, s, broad, CH3 [CH2 ]11CH2 --); 1.30(3H, t, J=7 Hz, CH3CH2N--); 1.61(3H, d, J=6 Hz, --CHCH3 --); 2.25(2H, t, J=6 Hz, CH3 [CH2 ]10CH2 --); 3.60(2H, q, J=6 Hz, CH3CH2N--); 6.10(1H, d, J=3 Hz, HC=CH); 6.23(1H, d, J=3 Hz, HC=CH); 6.43(1H, q, J=6 Hz, CH3CH--). νmax (film): 3200, 3180(HC=CH), 1745, 1705, 1690(C=O); 1250 cm-1 (C-O-C). m/e+1 367, C21H38N2O3 requires 366.

reactant | 1-Ethyl-4-imidazolin-2-one | 0.009 mol, 1 gm | C(C)N1C(NC=C1)=O | C5H8N2O
reactant | 1-chloroethyltetradecanoate | 0.009 mol, 2.6 gm | ClC(C)OC(CCCCCCCCCCCCC)=O | C16H31ClO2
reactant | sodium hydride | [H-].[Na+]
solvent | chloroform | 13 ml | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
product | 1-ethyl-4-imidazolin-2-one 3-α-ethyltetradecanoate | yield of 10% | C(C)N1C(NC=C1)=O.C(C)C(CC(=O)[O-])CCCCCCCCCCC | InChI=1S/C16H32O2.C5H8N2O/c1-3-5-6-7-8-9-10-11-12-13-15(4-2)14-16(17)18;1-2-7-4-3-6-5(7)8/h15H,3-14H2,1-2H3,(H,17,18);3-4H,2H2,1H3,(H,6,8)/p-1
